data/mechanism_extracts/JACS/10.1021_jacs.7b09388.json
{"doi": "10.1021_jacs.7b09388", "journal": "JACS", "is_review": false, "rxn_class_summary": "Mn-catalyzed electrochemical 1,2-dichlorination of alkenes using MgCl2 as a nucleophilic chlorine source via Mn-mediated Cl atom transfer.", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic", "radical_anodic"], "electrochemical_role": "Anodic oxidation of Mn(II)-chloride complex to a Mn(III)-Cl (MnIIIClX2) species that acts as a Cl atom transfer agent; cathode reduces protons to H2.", "key_intermediates": [{"name": "Mn(II)-Cl complex (resting state, gives quasi-reversible CV wave at 0.75 V)", "smiles": null, "role": "resting_state"}, {"name": "Mn(III)ClX2 (X = Cl or OAc) - Cl atom transfer agent", "smiles": null, "role": "reactive"}, {"name": "beta-chloro carbon-centered radical from Cl* addition to alkene", "smiles": null, "role": "transient"}, {"name": "free Cl* (ruled out as dominant; Mn-bound Cl preferred for chemoselectivity)", "smiles": "[Cl]", "role": "off_pathway"}, {"name": "Cl2 / chloronium / 1,3-dioxolium (from benzoate anchimeric assistance) - alternative Cl2 pathway", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the RVC anode, Mn(II)-Cl is oxidized to a Mn(III)-Cl species which transfers a Cl atom to the alkene to give a beta-chloroalkyl radical; a second Mn(III)-Cl delivers the second Cl atom to close vicinal dichlorination, while the Pt cathode reduces H+ to H2.", "rate_determining_step": "Cl atom transfer from Mn(III)ClX2 to the alkene (radical addition step, slower than electrochemical turnover of catalyst, per CV current enhancement at low scan rates).", "probe_reagents": [{"name": "N-tosyl diallylamine (radical clock 32)", "smiles": "C=CCN(Cc=C)S(=O)(=O)c1ccc(C)cc1", "purpose": "radical_clock", "observation": "Cyclization to pyrrolidine product 33 (71%) under electrocatalysis; no cyclization with Cl2, supporting C-radical intermediate."}, {"name": "Vinyl cyclopropane derivative 36", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opening to 37 (86%, E/Z 8:1) under electrocatalysis; no ring-opening with Cl2."}, {"name": "Cl2 (substitute for MgCl2/electricity)", "smiles": "ClCl", "purpose": "intermediate_trap", "observation": "Cl2-mediated reactions gave different (syn) diastereoselectivity, different chemoselectivity (chlorolactonization of 40, oxidation of sulfide/amine), ruling out electrochemically generated Cl2 as the active chlorinating agent."}, {"name": "Cinnamyl benzoate 28 (stereochemical probe)", "smiles": "O=C(OCC=Cc1ccccc1)c1ccccc1", "purpose": "other", "observation": "Electrocatalytic gives anti-dichloride 11 (dr 12:1); Cl2 gives syn-29 via 1,3-dioxolium - opposite stereochemistry confirms distinct mechanisms."}, {"name": "MgCl2 / Mn(OTf)2 CV", "smiles": null, "purpose": "redox_probe", "observation": "Quasi-reversible wave at 0.75 V assigned to Mn(II)/Mn(III)-Cl couple; current enhancement upon addition of 4-tert-butylstyrene indicates catalytic Cl transfer."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "stoichiometric_intermediate", "crossover"], "evidence_strength": "strong", "notes": "The alternative mechanism considered and ruled out is anodic generation of Cl2 followed by electrophilic Cl2 addition; this is excluded by (i) opposite diastereoselectivity vs Cl2 conditions, (ii) opposite chemoselectivity with oxidatively sensitive groups (sulfide 38, amine 39, 4-pentenoic acid 40 -> lactonization with Cl2 but dichlorination electrochemically), and (iii) positive radical clock outcomes only under electrocatalysis. Authors propose the Mn-bound Cl* preserves radical character while suppressing promiscuous free Cl* reactivity (HAT)."}
